Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[H:4],1.34651751907
[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([C:3]([H:4])=[C:5])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:6],4.02693753321
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-5.03361082107
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][H:11],8.88165290493
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.72071634447
[C:7]([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]=[O:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])[H:9],-5.20911436703
[C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.5350091586000003
[O:1]=[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:3][C:4]#[C:5][H:6],2.13968263712
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],3.7458925335300006
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9].[O:10][H:11],5.24050336001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.0104309053
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],4.68834827393
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[O:8][O:9][H:10].[H:7],1.82968577471
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3]([O:4][H:5])[C:9]([H:10])([H:11])[H:12],5.0535306606
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.81163752529
[O:1]=[C:2]([H:3])[C:4]1([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.0059571287602
[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.5385611496
[C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.9674932777
[H:1][C:2]#[C:3][C:4]1[O:5][C:6]1=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5])=[C:6]=[C:7]([H:8])[H:9],-0.6047852189899999
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.99794731482
[C:3]#[C:4][H:5].[O:1]=[C:2][O:6][H:7]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[O:6][H:7],-5.41277961131
[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11],2.02562326587
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[O:11][H:12],-2.02817727321
[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[C:7]([H:8])[H:9]>>[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9],-5.39425395401
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.03165286304
[H:18].[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.3753235301199975
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-4.793224908430001
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.27189330034
[H:1][C:2]([H:3])([H:4])[C:5].[O:6]=[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11],-0.8715950844499999
